US06696473B2
C. Preparation of 2-(5-Acetyl-2-ethylaminophenylimino)-3-benzyl-1-methyl-5-(3-methyl-3H-benzothiazol-2-ylidene)imidazolidin-4-one
In a manner similar to Example 1, intermediate 3-benzyl-1-methyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-thioxoimidazolidin-4-one was alkylated with methyl p-toluenesulfonate and condensed with 3′-amino-4′-ethylaminoacetophenone to yield the title compound. 1H-NMR (CDCl3): δ 8.11 (1H, d), 7.84 (1H, dd), 7.51 (1H, dd), 7.31 (1H, m), 7.16 (1H, m), 6.95-7.12 (7H, m), 6.08 (1H, br t), 4.46 (2H, hs m), 3.99 (2H, m), 3.78 (3H, s), 3.50 (3H, s), 2.65 (3H, s), 1.06 (3H, t); MS(ESI): 512 (MH+).

reactant | 3-benzyl-1-methyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-thioxoimidazolidin-4-one | C(C1=CC=CC=C1)N1C(N(C(C1=O)=C1SC2=C(N1C)C=CC=C2)C)=S | C19H17N3OS2
reactant | methyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | 3′-amino-4′-ethylaminoacetophenone | NC=1C=C(C=CC1NCC)C(C)=O | C10H14N2O
product | 2-(5-Acetyl-2-ethylaminophenylimino)-3-benzyl-1-methyl-5-(3-methyl-3H-benzothiazol-2-ylidene)imidazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1N(C(C(N1CC1=CC=CC=C1)=O)=C1SC2=C(N1C)C=CC=C2)C)NCC | C29H29N5O2S
